US08895571B2
Step B: (2S)-2-[(tert-butoxycarbonyl)amino]-3-(2-methoxypyridin-4-yl)propanoic acid
Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(2-methoxypyridin-4-yl)propanoate (1.42 g, 4.58 mmol) was mixed with methanol (10.0 mL) and a solution of lithium hydroxide (0.66 g, 14 mmol) in water (5.0 mL). The mixture was stirred at rt for 1 h. The mixture was then acidified with 4 N HCl dioxane solution and condensed under vacuum directly to give the white solid mixture, which was used directly in the next step. LC-MS found: 297.1 (M+H)+.

reactant | Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(2-methoxypyridin-4-yl)propanoate | 4.58 mmol, 1.42 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC(=NC=C1)OC | C15H22N2O5
reactant | methanol | 10.0 mL | CO | CH4O
reactant | lithium hydroxide | 14 mmol, 0.66 g | [OH-].[Li+]
reactant | HCl dioxane | 4 N | O1CCOCC1.Cl
solvent | water | 5.0 mL | O | H2O
product | (2S)-2-[(tert-butoxycarbonyl)amino]-3-(2-methoxypyridin-4-yl)propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=NC=C1)OC | C14H20N2O5
